US04631081
2,4,6-Trimethoxypyridine was prepared by reacting 2,4,6-trimethoxypyridine-1-oxide and phosphorus and trichloride by the method of Johnson, Katrizky and Viney (J. Chem. Soc. B, 1211, 1967), and was obtained as a colourless solid. Pmr spectrum (δ in ppm; CDCl3): 3.77 (3H, s); 3.87 (6H, s); 5.85 (2H, s).

reactant | 2,4,6-trimethoxypyridine-1-oxide | COC1=[N+](C(=CC(=C1)OC)OC)[O-] | C8H11NO4
reactant | phosphorus | [P] | P
product | 2,4,6-Trimethoxypyridine | COC1=NC(=CC(=C1)OC)OC | C8H11NO3
